US08497278B2
N-((6-chloro-2-phenylimidazo[1,2-a]pyridin-3-yl)methyl)-6-methoxypyridazin-3-amine (165)
The title compound was prepared according to Method A and the experimentals described for compound 139 from 3-(chloromethyl)-6-fluoro-2-(4-fluorophenyl)imidazo[1,2-a]pyridine hydrochloride and 6-methoxypyridazin-3-amine compound. M/e+ 366 for C19H17ClN5O (M+H)+; 1H-NMR (400 MHz, CDCl3) δ 8.16 (t, J=0.7 Hz, 1H), 7.68 (dd, J=8.4, 1.4 Hz, 2H), 7.52 (d, J=9.5 Hz, 1H), 7.39 (m, 3H), 7.16 (dd, J=9.5, 1.8 Hz, 1H), 6.84 (q, J=9.5 Hz, 2H), 5.07 (d, J=4.7 Hz, 2H), 4.06 (s, 3H), 1.62 (bs, 1H) ppm.

reactant | 3-(chloromethyl)-6-fluoro-2-(4-fluorophenyl)imidazo[1,2-a]pyridine hydrochloride | Cl.ClCC1=C(N=C2N1C=C(C=C2)F)C2=CC=C(C=C2)F
reactant | 6-methoxypyridazin-3-amine | COC1=CC=C(N=N1)N | C5H7N3O
product | N-((6-chloro-2-phenylimidazo[1,2-a]pyridin-3-yl)methyl)-6-methoxypyridazin-3-amine | ClC=1C=CC=2N(C1)C(=C(N2)C2=CC=CC=C2)CNC=2N=NC(=CC2)OC | C19H16ClN5O
